US06833380B2
Preparation of Indan-4-ol (compound 7A)
A mixture of 4-hydroxy-indan-1-one (5.0 g, 33.7 mmol), sodium cyanoborohydride (6.4 g, 101.1 mmol), and zinc iodide (32.3 g, 101.1 mmol) in dichloroethane, was heated at reflux for two hours. The reaction mixture was then filtered through 50 g SiO2 while still warm, eluting further with dichloroethane. The filtrate was collected and concentrated under vacuum. The residue was added to diethyl ether and the resulting white precipitate was filtered off. The filtrate was collected and concentrated in vacuo to give 4.2 g of the title compound with purity high enough for subsequent use. 400 MHz 1H NMR (DMSO-d6) δ 9.06 (s, 1H), 6.86 (t, 1H, J=7.8 Hz), 6.59 (d, 1H, J=7.8 Hz), 6.48 (d, 1H, J=7.8 Hz), 2.75 (t, 2H, J=7.3 Hz), 2.67 (t, 2H, J=7.3 Hz), 1.92 (m, 2H).

reactant | 4-hydroxy-indan-1-one | 33.7 mmol, 5.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | sodium cyanoborohydride | 101.1 mmol, 6.4 g | C(#N)[BH3-].[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | zinc iodide | 101.1 mmol, 32.3 g | [I-].[Zn+2].[I-]
product | Indan-4-ol | 4.2 g | C1CCC=2C(=CC=CC12)O | C9H10O
